US07645789B2
N-(3-Amino-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide
A solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropane carboxamide (50 mg, 0.13 mmol) was dissolved in AcOH (2 mL) and warmed to 45° C. To the mixture was added a solution of NaNO2 (9 mg) in H2O (0.03 mL). The mixture was allowed to stir for 30 min at 45° C. before the precipitate was collected and washed with Et2O. This material was used in the next step without further purification. To the crude material, 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-nitroso-1H-indol-5-yl)cyclopropanecarboxamide, was added AcOH (2 mL) and Zn dust (5 mg). The mixture was allowed to stir for 1 h at ambient temperature. EtOAc and H2O were added to the mixture. The layers were separated and the organic layer was washed with sat. aq. NaHCO3, dried over MgSO4, and concentrated in vacuo. The residue was taken up in DMF (1 mL) and was purified using prep-HPLC. LCMS: m/z 392.3; retention time of 2.18 min.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropane carboxamide | 0.13 mmol, 50 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C)(C)C | C23H24N2O3
reactant | NaNO2 | 9 mg | N(=O)[O-].[Na+]
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | H2O | 0.03 mL | O | H2O
product | N-(3-Amino-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | NC1=C(NC2=CC=C(C=C12)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1)C(C)(C)C | C23H25N3O3
